US08455528B2
2-{5-Iodo-1-methyl-4-[4-(1,3,4-oxadiazol-2-yl)phenyl]-1H-imidazol-2-yl}pyridine
4-(5-Iodo-1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzohydrazide (4.9 g, 12 mmol) was suspended in 60 mL of triethyl orthoformate, to which was added 1 mL of TFA. The suspension was heated at 130° C. The reaction was cooled to rt, and the precipitate was collected, washed with hexanes and dried to give 4.8 g of the title compound. 1H NMR (500 MHz, (CDCl3): 8.62 (m, 1H), 8.57 (s, 1H), 8.11 (m, 1H), 8.09 (s, 4H), 7.82 (m, 1H), 7.32 (m, 1H), 4.13 (s, 3H). LCMS: [M+1]=430.

reactant | 4-(5-Iodo-1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzohydrazide | 12 mmol, 4.9 g | IC1=C(N=C(N1C)C1=NC=CC=C1)C1=CC=C(C(=O)NN)C=C1 | C16H14IN5O
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | triethyl orthoformate | 60 mL | C(OCC)(OCC)OCC | C7H16O3
product | 2-{5-Iodo-1-methyl-4-[4-(1,3,4-oxadiazol-2-yl)phenyl]-1H-imidazol-2-yl}pyridine | 4.8 g | IC1=C(N=C(N1C)C1=NC=CC=C1)C1=CC=C(C=C1)C=1OC=NN1 | C17H12IN5O
